US06258812B1
Preparation of 82B=3-(4-methylanilino)-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine (Rx=para-methyl):
The compound is prepared from 0.070 g 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine and 0.129 g para-methylaniline in the manner described in Example 82A. Title compound is obtained after FC in CH2Cl2/Methanol 19/1; m.p. 68-70° C. 1H-NMR (250 MHz,CDCl3): δ=8.45 (s, wide, 2H); 7.45 (d, 2H); 7.10 (“d”, wide, 4H); 6.10 (s, wide, 1H); 4.25 (s, 2H); 2.30 (s, 3H); 2.15 (s, 3H); 2.10 (s, 3H). ES-MS 305 (M+H).

reactant | 3-chloro-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine | 0.070 g | ClC=1N=NC(=C(C1C)C)CC1=CC=NC=C1 | C12H12ClN3
reactant | para-methylaniline | 0.129 g | CC1=CC=C(N)C=C1 | C7H9N
solvent | CH2Cl2 methanol | C(Cl)Cl.CO
product | 3-(4-methylanilino)-4,5-dimethyl-6-(pyridin-4-yl)methylpyridazine | CC1=CC=C(NC=2N=NC(=C(C2C)C)CC2=CC=NC=C2)C=C1 | C19H20N4
